simulator lang=spectre
global 0

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0.0
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=10n rise=50p fall=50p width=9n period=20n
Vdata (data 0) vsource type=pwl wave=[ 0 0.0 7.95n 0.0 8.00n 0.9 27.95n 0.9 28.00n 0.0 47.95n 0.0 48.00n 0.9 67.95n 0.9 68.00n 0.0 91.95n 0.0 92.00n 0.9 111.95n 0.9 112.00n 0.0 131.95n 0.0 132.00n 0.9 151.95n 0.9 152.00n 0.0 170n 0.0 ]

XDUT (vdd vss clk data up dn retimed_data) bbpd_data_edge_alignment_ref

tran tran stop=170n maxstep=0.1n
save clk data up dn retimed_data

ahdl_include "bbpd_data_edge_alignment_ref.va"
